US07452993B2
A mixture of 3-ethoxycarbonyl-5-pyridylboronic acid (529 mg, 1.91 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichlormethane adduct (66 mg, 0.09 mmol) and 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (780 mg, 1.80 mmol) acetonitrile (5 mL) and 2 M aqueous solution of sodium carbonate (5 mL) were added and the mixture was irradiated in a Personal Chemistry Optimizer to 90° C. for 30 minutes. The crude reaction mixture was distributed between ethyl acetate and water. The aqueous phase was extracted three times with ethyl acetate and the combined organic phases were dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-nicotinic acid ethyl ester (552 mg, 61% yield) as a yellow oil. 1H-NMR (500 MHz, d6-DMSO) δ9.24 (d, 1H), 9.12 (d, 1H), 9.03 (d, 1H), 8.60 (t, 1H), 8.56 (d, 1H), 7.66 (dd, 1H), 7.51 (ddd, 1H), 7.25 (dd, 1H), 7.12 (dt, 1H), 5.88 (s, 2H), 4.40 (q, 2H), 3.87 (s, 3H), 3.71 (t, 2H), 1.37 (t, 3H), 0.87 (t, 2H), −0.073 (t, 9H). MS: m/z 505 [MH+].

reactant | 3-ethoxycarbonyl-5-pyridylboronic acid | 1.91 mmol, 529 mg | C(C)OC(=O)C=1C=NC=C(C1)B(O)O | C8H10BNO4
reactant | 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 1.80 mmol, 5 mL, 780 mg | BrC=1C=C2C(=NC1)N(N=C2I)COCC[Si](C)(C)C | C12H17BrIN3OSi
reactant | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-nicotinic acid ethyl ester | 552 mg, 61% yield | C(C)OC(C1=CN=CC(=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)=O | C27H32N4O4Si
